US08106045B2
tert-Butyl (2S)-2-(4-(3-bromopropyloxy)phenyl)morpholine-4-carboxylate (2.0 g, 5.0 mmol) was added to a solution of sodium hydride (60% in oil, 0.22 g, 5.50 mmol) and pyrrolidine (0.43 g, 6.05 mmol) in tetrahydrofuran (40 ml) at room temperature and the mixture was stirred at 80° C. for 5 hours. The mixture was partitioned between water and chloroform. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting 5-10% methanol in chloroform to furnish tert-butyl (2S)-2-(4-(3-(pyrrolidin-1-yl)propyloxy)phenyl)morpholine-4-carboxylate (1.13 g, 58%) as a colorless oil.

reactant | tert-Butyl (2S)-2-(4-(3-bromopropyloxy)phenyl)morpholine-4-carboxylate | 5.0 mmol, 2.0 g | BrCCCOC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C18H26BrNO4
reactant | sodium hydride | 5.50 mmol, 0.22 g | [H-].[Na+]
reactant | pyrrolidine | 6.05 mmol, 0.43 g | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | tert-butyl (2S)-2-(4-(3-(pyrrolidin-1-yl)propyloxy)phenyl)morpholine-4-carboxylate | 1.13 g, 58% | N1(CCCC1)CCCOC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C22H34N2O4
